* Variant 05: Discrete current-feedback BJT power amplifier
* Radio.ru-inspired BJT topology study.
* This is a SPICE-like behavioral placeholder; the executable simulation is
* generate_radio_ru_5_study.py because no ngspice/LTspice binary was found.
*
* Source basis: Petrov 2018 current-feedback UMZCH article, implemented as a pure BJT loop
* Front end:    Low-impedance BJT transimpedance input stage
* VAS:          Wideband complementary BJT gain stage with current feedback summing
* Output:       Two-stage complementary emitter follower with output-current sensing
* Feedback:     Global current feedback from output/sense resistor to input summing node
*
* Rails +/-15 V, load 8 ohm, nominal gain Av=10.
* Behavioral parameters:
*   headroom_v=11.5
*   h2=0.00022
*   h3=0.00022
*   crossover_v=0.015
*   rout_ohm=0.035
*   bandwidth_khz=300.0
*   feedback=global current feedback
*
VCC VCC 0 DC 15
VEE VEE 0 DC -15
VIN IN 0 SIN(0 0.1 1000)
* Expand Q1..Qn according to schematics/05_petrov_current_feedback.svg before transistor-level SPICE.
ROUT OUT LOAD 0.035
RLOAD LOAD 0 8
RZ LOAD ZOB 10
CZ ZOB 0 100n
*.tran 0 40m 10m 2u
*.four 1000 V(LOAD)
.end
